US04499094
Operations are carried out as for Example 7, starting from 1.42 g of 1-(2-chlorophenyl) isoquinoline 3-carboxylic acid, 0.58 g of triethylamine, 0.62 g of ethyl chloroformate and 0.66 g of N-propyl propylamine in 50 ml of chloroform. 1.40 g of N,N-dipropyl 1-(2-chloro phenyl) isoquinoline 3-carboxamide, melting at 101° C., are obtained.

reactant | 1-(2-chlorophenyl) isoquinoline 3-carboxylic acid | 1.42 g | ClC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)O | C16H10ClNO2
reactant | triethylamine | 0.58 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.62 g | ClC(=O)OCC | C3H5ClO2
reactant | N-propyl propylamine | 0.66 g | C(CC)NCCC | C6H15N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-dipropyl 1-(2-chloro phenyl) isoquinoline 3-carboxamide | 1.40 g | C(CC)N(C(=O)C=1N=C(C2=CC=CC=C2C1)C1=C(C=CC=C1)Cl)CCC | C22H23ClN2O
